US08633215B2
2-Dimethylaminomethyl-9-hydroxythieno[2,3-c]isoquinolin-5(4H)-one hydrobromide
Boron tribromide, 1 M CH2Cl2 solution, (0.1 ml, 0.41 mmol) was added to a solution of 2-dimethylaminomethyl-9-methoxythieno[2,3-c]isoquinolin-5(4H)-one hydrochloride (0.03 g, 0.09 mmol) in dichloromethane (2 ml) and the reaction mixture was refluxed for 24 hours. The mixture was cooled to 23° C., poured on to ice and the resulting mixture was evaporated under reduced pressure. The mixture was purified by crystallization with 96% ethanol to obtain the title compound (54% yield) as pure solid.

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-dimethylaminomethyl-9-methoxythieno[2,3-c]isoquinolin-5(4H)-one hydrochloride | 0.09 mmol, 0.03 g | Cl.CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)OC)=O)S1
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 0.41 mmol, 1 M, 0.1 ml | C(Cl)Cl | CH2Cl2
product | 2-Dimethylaminomethyl-9-hydroxythieno[2,3-c]isoquinolin-5(4H)-one hydrobromide | 54% yield | Br.CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)O)=O)S1 | InChI=1S/C14H14N2O2S.BrH/c1-16(2)7-8-6-10-12-9(4-3-5-11(12)17)13(18)15-14(10)19-8;/h3-6,17H,7H2,1-2H3,(H,15,18);1H
